US06589970B2
Step 7: 2-Butyl-benzofuran-3-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-butyl-amide.
A mixture of 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-butyl-amide (0.285 g, 0.52 mmol), prepared in the previous step, sodium azide (0.101 g, 1.56 mmol) and ammonium chloride (0.083 g, 1.56 mmol) in 10 mL of anhydrous DMF was stirred at 100° C. under nitrogen for 5 h. By TLC starting material remained. Additional amounts of sodium azide (0.101 g, 1.56 mmol) and ammonium chloride (0.083 g, 1.56 mmol) were added and the reaction stirred at 100° C. under nitrogen for 3 h. The reaction was diluted with water, made basic with 1N NaOH and extracted five times with ethyl acetate. The organic layer was separated and acidified with 1N HCl. The solvent was removed under reduced pressure and the residue diluted with 10 mL of water. A solid foam formed, which was collected by filtration and dried under reduced pressure to give the title compound (0.2765 g, 90%) as a tan foam, MS m/z: 588 [M−H]−.

reactant | 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-butyl-amide | 0.52 mmol, 0.285 g | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)CCCC | C30H31BrN2O3
reactant | sodium azide | 1.56 mmol, 0.101 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.56 mmol, 0.083 g | [Cl-].[NH4+]
reactant | sodium azide | 1.56 mmol, 0.101 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.56 mmol, 0.083 g | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Butyl-benzofuran-3-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-butyl-amide | 0.2765 g, 90% | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CN(C(=O)C1=C(OC2=C1C=CC=C2)CCCC)CCCC | C30H32BrN5O3
